US04282365
β-Hydroxyethyl 6,11-Dihydro-11-oxodibenz[b,e]oxepin-2-carboxylate
To a stirred solution of 1.0 gm of 2-chlorocarbonyl-6,11-dihydro-11-oxo-dibenz[b,e]oxepin in 50 cc of methylene chloride, add 3 gm of ethylene glycol and stir the mixture for 18 hours at room temperature. Distill off the solvent and excess ethylene glycol under high vacuum (0.1 mm). Chromatograph the residue on a silica gel column (100 gm), eluting with 10% ethyl acetate in benzene to obtain the title product.

reactant | 2-chlorocarbonyl-6,11-dihydro-11-oxo-dibenz[b,e]oxepin | 1.0 gm | ClC(=O)C1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C15H9ClO3
reactant | ethylene glycol | 3 gm | C(CO)O | C2H6O2
solvent | methylene chloride | 50 cc | C(Cl)Cl | CH2Cl2
product | β-Hydroxyethyl 6,11-Dihydro-11-oxodibenz[b,e]oxepin-2-carboxylate | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OCCO | C17H14O5
